US08557984B2
3-Iodo-4-(methoxy) nitrobenzene (65 g, 233 mmol, Matrix Scientific), (3,5-dimethyl-4-isoxazolyl)boronic acid (36.1 g, 256 mmol) and cesium carbonate (152 g, 466 mmol) were combined with DME (80 ml) and water (40 ml) and the mixture was degassed with nitrogen for 10 min, then PEPPSI™ catalyst (3.96 g, 5.82 mmol) was added and the mixture heated at 90° C. for 4 h, then cooled and diluted with ethyl acetate (800 ml). The resulting suspension was filtered through Celite and the filtrate washed with water (2×500 ml). The solvent was dried (sodium sulphate), filtered and evaporated to give a brown solid which was triturated with ether (30 ml). The solid product was washed with ether (100 ml) to give 3,5-dimethyl-4-[2-(methyloxy)-5-nitrophenyl]isoxazole as beige solid (48.2 g).

reactant | 3-Iodo-4-(methoxy) nitrobenzene | 233 mmol, 65 g | IC=1C=C(C=CC1OC)[N+](=O)[O-] | C7H6INO3
reactant | (3,5-dimethyl-4-isoxazolyl)boronic acid | 256 mmol, 36.1 g | CC1=NOC(=C1B(O)O)C | C5H8BNO3
reactant | cesium carbonate | 466 mmol, 152 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | DME | 80 ml | COCCOC | C4H10O2
solvent | ethyl acetate | 800 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 40 ml | O | H2O
product | 3,5-dimethyl-4-[2-(methyloxy)-5-nitrophenyl]isoxazole | 48.2 g | CC1=NOC(=C1C1=C(C=CC(=C1)[N+](=O)[O-])OC)C | C12H12N2O4
